US05298652
A mixture of 1.3 g (2.17 mmol) of N-(2-ethoxy-2-oxoethyl)-N-[1,2-dioxo-2-[4-[(12-phenoxydodecyl)oxy]phenyl]ethyl]glycine ethyl ester and 1.8 ml (10.8 mmol) of 6N NaOH in 125 ml of methanol was stirred at reflux for 3.5 hours. The reaction mixture was cooled in an ice bath and the precipitated sodium salt was filtered. The sodium salt was suspended in water, acidified with 6N HCl and extracted with ethyl acetate. The dried extract was concentrated to a solid which was triturated with hexane and filtered to give 1.04 g (88% yield, mp 130°-132°) of N-(carboxymethyl)-N-[1,2-dioxo-2-[4-[(12-phenoxydodecyl)oxy]phenyl]ethyl]glycine.

reactant | N-(2-ethoxy-2-oxoethyl)-N-[1,2-dioxo-2-[4-[(12-phenoxydodecyl)oxy]phenyl]ethyl]glycine ethyl ester | 2.17 mmol, 1.3 g | C(C)OC(CN(C(C(C1=CC=C(C=C1)OCCCCCCCCCCCCOC1=CC=CC=C1)=O)=O)CC(=O)OCC)=O | C34H47NO8
reactant | NaOH | 10.8 mmol, 6N, 1.8 ml | [OH-].[Na+]
solvent | methanol | 125 ml | CO | CH4O
product | N-(carboxymethyl)-N-[1,2-dioxo-2-[4-[(12-phenoxydodecyl)oxy]phenyl]ethyl]glycine | 1.04 g, 88% yield | C(=O)(O)CN(CC(=O)O)C(C(C1=CC=C(C=C1)OCCCCCCCCCCCCOC1=CC=CC=C1)=O)=O | C30H39NO8
